US08541596B2
N-(4-Ethylbenzyl)-N-((benzo[d]thiazol-2-yl)methyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from N-(4-ethylbenzyl)benzimidazol-5-amine (251 mg; 1 mmol; 1 eq.), (benzo[d]-thiazol-2-yl)methylbromide (251 mg; 1.1 mmol; 1.1 eq.) and K2CO3 (152 mg; 1.1 mmol; 1.1 eq.) according to method 6; Yield: 0.118 g (29.6%);; MS m/z: 399.4 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 1.14 (t, 3H, 3J=7.6 Hz); 2.56 (q, 2H, 3J=7.6 Hz); 4.74 (s, 2H); 5.02 (s, 2H); 6.85-6.86 (m, 2H); 7.15-7.17 (m, 2H); 7.26-7.27 (m, 2H); 7.36-7.39 (m, 2H); 7.46-7.49 (m, 1H); 7.94-7.95 (m, 2H), 7.98-8.00 (m, 1H); 11.98 (br s, 1H); HPLC (METHOD [A]): rt 17.02 min (97.8%)

reactant | N-(4-ethylbenzyl)benzimidazol-5-amine | 1 mmol, 251 mg, 1 eq. | C(C)C1=CC=C(CNC2=CC3=C(N=CN3)C=C2)C=C1 | C16H17N3
reactant | (benzo[d]-thiazol-2-yl)methylbromide | 1.1 mmol, 251 mg, 1.1 eq. | S1C(=NC2=C1C=CC=C2)CBr | C8H6BrNS
reactant | K2CO3 | 1.1 mmol, 152 mg, 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N-(4-Ethylbenzyl)-N-((benzo[d]thiazol-2-yl)methyl)-1H-benzo[d]imidazol-5-amine | C(C)C1=CC=C(CN(C2=CC3=C(NC=N3)C=C2)CC=2SC3=C(N2)C=CC=C3)C=C1 | C24H22N4S
